US06080743
a) N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-succinic acid amide
55 μl (0.397 mmol) of triethylamine and 40 mg (0.397 mmol) of succinic anhydride are added to a suspension of 100 mg (0.378 mmol) of 5-aminomethyl-2,3-dimethoxy-7-nitro-quinoxaline in 2 ml of tert-butyl methyl ether and the mixture is stirred for 3 hours at room temperature. The mixture is then filtered and the residue is washed twice with tert-butyl methyl ether. The filter residue is chromatographed on silica gel with dichloromethane/methanol/acetic acid (95:4.5:0.5). The title compound is obtained in the form of a beige powder.

reactant | triethylamine | 0.397 mmol, 55 μl | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 0.397 mmol, 40 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | 5-aminomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 0.378 mmol, 100 mg | NCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H12N4O4
solvent | tert-butyl methyl ether | 2 ml | COC(C)(C)C | C5H12O
product | N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-succinic acid amide | COC1=NC2=CC(=CC(=C2N=C1OC)CNC(CCC(=O)O)=O)[N+](=O)[O-] | C15H16N4O7
